US06333324B1
A solution of ethyl chlorocarbonate (42 mg) in CHCl3 (1 ml) was added dropwise to a solution of (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide (150 mg) and triethylamine (39 mg) in CHCl3 (2 ml) with cooling on an ice bath. The reaction mixture was stirred at said temperature for 30 minutes and the reaction was quenched by adding 3-(N,N-dimethylamino)propylamine (0.5 ml). The mixture was concentrated in vacuo, and the residue was partitioned between AcOEt and 5% aqueous citric acid. The organic layer was washed with saturated aqueous NaHCO3 solution and saturated aqueous NaCl solution, dried over MgSO4, and concentrated in vacuo. The residue was purified by SiO2 column chromatography eluted with AcOEt in hexane gradually from 40% to 60%, to give 142 mg of (2R)-4-ethoxycarbonyl-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide.

reactant | ethyl chlorocarbonate | 42 mg | C(OCC)(=O)Cl | C3H5ClO2
reactant | (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 150 mg | FC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1[C@H](CNCC1)C(=O)NOC1OCCCC1 | C20H24FN3O5S2
reactant | triethylamine | 39 mg | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | (2R)-4-ethoxycarbonyl-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 142 mg | C(C)OC(=O)N1C[C@@H](N(CC1)S(=O)(=O)C=1SC(=CC1)C1=CC=C(C=C1)F)C(=O)NOC1OCCCC1 | C23H28FN3O7S2
